US04168964
Preparation of 3-{[5-methyl-2-(α,α,α-trifluoro-m-tolyl)-4-imidazolyl]methylene}carbazic acid methyl ester
A mixture of 5-methyl-2-(α,α,α-trifluoro-m-tolyl)imidazole-4-carboxaldehyde (20.0 g, 0.0787 mole), methanol (500 ml), methyl carbazate (7.8 g) and glacial acetic acid (0.5 ml) is refluxed overnight. The solution is then concentrated to afford 23.14 g of title product. A sample is recrystallized from methanol-acetone, m.p. 251°-251.5° C.

reactant | 5-methyl-2-(α,α,α-trifluoro-m-tolyl)imidazole-4-carboxaldehyde | 0.0787 mole, 20.0 g | CC1=C(N=C(N1)C=1C=C(C=CC1)C(F)(F)F)C=O | C12H9F3N2O
reactant | methanol | 500 ml | CO | CH4O
reactant | methyl carbazate | 7.8 g | C(NN)(=O)OC | C2H6N2O2
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 3-{[5-methyl-2-(α,α,α-trifluoro-m-tolyl)-4-imidazolyl]methylene}carbazic acid methyl ester | 23.14 g | COC(NN=CC=1N=C(NC1C)C=1C=C(C=CC1)C(F)(F)F)=O | C14H13F3N4O2
